Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Dizziness, Hypotension, Bradycardia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ woman with a history of 
depression
and anxiety who presented to the ED with dizziness on ___ after
an overdose of guanfacine.  

Ms. ___ ingested ___ tablets of guanfacine at ~1430 on
___, around 30 minutes prior to arrival to the ED. Her primary
complaint was dizziness, though she reports moderate pleuritic
chest pain that began after arrival to the ED. She states that
her depression had been getting worse for weeks leading up to 
the
ingestion, her primary source of stress being problems with a
friend group at school. She felt particularly hopeless and
depressed on ___ which caused her to "grab the pill bottle" and
swallow between 25 to 40 guanfacine pills. She called her 
sister,
who brought her to the ED. 

She reports having attempted suicide previously at least three
times, and having overdosed on medication in the past. She
endorsed a history of intermittent marijuana use but denies any
further illicit drug or alcohol use today. 

Pertinent ED course (including exam, labs, imaging, consults,
treatment):
In the ED she reported dizziness and pleuritic chest pain, and
was found to be bradycardic and hypotensive. 

Vitals were T 98.5  HR 58   BP 105/68   RR 16   SaO2: 100%RA

Exam was notable for: 
bradycardia
Multiple scars from previous self injurious attempts on left
forearm

Labs in the ED were notable for:  
(moderately hemolyzed)
136   101   10          AGap=12
---------------<134
6.2   23    0.8

         11.8
3.9 >----------< 220
         36.6

Ca: 9.8    Mg: 1.8   P: 3.7 

ALT: 14AP: 77Tbili: 0.5Alb: 4.4
AST: 26    Lip: 33

Trop-T: <0.01 

Serum tox - Negative
Urine tox - Negative
U/A - Negative

VBG: pH 7.36pCO2 47   pO2 24  HCO3 28  BaseXS -1

EKG in ED notable for sinus bradycardia, normal axis, QRS 91, 
QTc
444. 

In the ED ___ got NS, Atropine 0.5mg for bradycardia to ___ 
___ Mg was 1.8, was repleted. 
Toxicology and Psychiatry consulted, following. 

Upon arrival to the floor, the patient corroborates above
history. She reports that she would still feel dizzy if she 
tried
to stand up, and that her pleuritic chest pain is improved since
yesterday though still present. 

Upon further questioning, she reports that she takes guanfacine
"as needed for anxiety." However, she also reports being told 
she
has ADHD and is unsure about the details. 

REVIEW OF SYSTEMS:
General: + dizziness. No weight loss, fevers, sweats.
Eyes: no vision changes.
ENT: no dysphagia
Cardiac: + pleuritic chest pain. no palpitations, orthopnea.
Resp: no shortness of breath or cough.
GI: no nausea, vomiting, diarrhea.
GU: no dysuria, frequency, urgency.
Neuro: no unilateral weakness, numbness, headache. no
paresthesias. 
MSK: no myalgia or arthralgia.
Psych: +suicidal ideation. 
 
Past Medical History:
Depression
Anxiety
ADHD
3x suicide attempts (per report)
 
Social History:
___
Family History:
Aunt with depression.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=========================
VITALS: T98.0   BP 91/51  HR 60   RR 18   SaO2: 100%RA 
GENERAL: appears comfortable, lying in bed, NAD
EYES: anicteric, no pallor, PERRL. 
ENT: supple, no LAD
CV: Normal S1, S2. Bradycardic, regular rhythm. No murmurs, 
rubs,
or gallops. 
RESP: unlabored, CTAB
GI: Nondistended, nontender, no rebound or guarding.
NEURO: Oriented x3. CN ___ intact. No pronator drift. ___
strength in UEs and LEs. Sensation to light touch intact in UEs
and LEs.  
PSYCH: continues to have active suicidal ideation. 

DISCHARGE PHYSICAL EXAM:
========================
VITALS: T: 98.4, BP: 99 / 53, HR: 55, O2 97 RA  
GENERAL: comfortable, resting  in bed, NAD
HEENT:  anicteric, no pallor, PERRLA, supple, no LAD
CV: Normal S1, S2. Bradycardic, regular rhythm. No murmurs, 
rubs,
or gallops. 
RESP: CTAB
GI: Soft, non-tender, non- distended, no rebound or guarding.
NEURO: Oriented x3. CN ___ intact. 
PSYCH: Denies active suicidality. 
SKIN: linear scars on anterior left forearm. 

 
Pertinent Results:
ADMISSION LABS:
================
GLUCOSE-134* UREA N-10 CREAT-0.8 SODIUM-136 POTASSIUM-6.2* 
CHLORIDE-101 TOTAL CO2-23 ANION GAP-12
WBC-3.9* RBC-3.92 HGB-11.8 HCT-36.6 MCV-93 MCH-30.1 MCHC-32.2 
RDW-12.9 RDWSD-44.2
NEUTS-43.3 ___ MONOS-8.8 EOS-3.4 BASOS-0.3 AbsNeut-1.68 
AbsLymp-1.71 AbsMono-0.34 AbsEos-0.13 AbsBaso-0.01
ASA-NEG ETHANOL-NEG ACETMNPHN-NEG bnzodzpn-NEG barbitrt-NEG 
tricyclic-NEG
ALBUMIN-4.4 CALCIUM-9.8 PHOSPHATE-3.7 MAGNESIUM-1.8
cTropnT-<0.01
ALT(SGPT)-14 AST(SGOT)-26 ALK PHOS-77 TOT BILI-0.5 LIPASE-33

*No other pertinent objective data to report given stable 
clinical status. Labs were not drawn on day of discharge. No 
pertinent microbiology or imaging studies.

 
Brief Hospital Course:
Ms. ___ is a pleasant ___ woman with a history of 
depression, anxiety, and 3 suicide attempts, who presented ___ 
to the ED with dizziness, bradycardia, and hypotension after a 
guanfacine overdose, and was found to have ECG concerning for 
sinus bradycardia.

ACUTE/ACTIVE PROBLEMS:
# Guanfacine overdose 
The patient took ___ tablets of guanfacine on ___, and 
presented to the ___ Emergency Department with dizziness, 
bradycardia, and hypotension. ECG was notable for sinus 
bradycardia without prolonged QTc or QRS. Negative serum tox and 
urine tox. She was given atropine on ___ for bradycardia to 
___, and Magnesium was repleted on ___. Toxicology and 
Pyschiatry were consulted. Her presentation was consistent with 
overdose of guanfacine, a centrally acting alpha-2 agonist, 
causing loss of sympathetic tone and resultant hypotension and 
bradycardia. Per toxicology, the mainstay of treatment is 
supportive care, including monitoring for hypotension, 
symptomatic bradycardia, and CNS depression. The half-life of 
guanfacine is approximately 17 hours but this may be prolonged 
in the setting of overdose. Serial ECG's showed improved QTc 
intervals. Her home escitalopram and Benadryl were held. Pt was 
ultimately deemed medically stable for psychiatric placement. Of 
note, her baseline blood pressures are in the ___ with 
baseline heart rate in the ___.

#Suicidal Ideation 
The patient overdosed in an attempt to end her life. She has 
overdosed in the past, and reports that she has attempted 
suicide at least three times. She endorsed active suicidal 
ideation, and states that she has a plan though does not want to 
talk about it. Psychiatry was consulted. A ___ was 
ordered, and the patient had a 1:1 sitter. She did not make any 
attempts at self-harm while admitted, and she had no behavioral 
issues. Per psychiatry inpatient team, patient's presentation 
was concerning for an acute depressive episode of an underlying 
mood disorder (given low mood, poor sleep, and other depressive 
symptoms in week leading up to suicide attempt) as well as 
underlying personality disorder (given poor coping skills, 
impulsivity, and interpersonal hypersensitivity). She has 
multiple static risk factors for harm to self including history 
of mental illness, history of past suicide attempts including 
recent attempt, history of non-suicidal self-injurious 
behaviors, age/gender, and possible personality disorder. 
Modifiable risk factors include poor coping skills, 
unemployment, and recent insomnia (improved). Protective factors 
include help-seeking behavior, lack of current suicidal 
ideation, current engagement in treatment, and strong social 
supports. These protective factors do not completely mitigate 
the patient's risk factors and she remains at elevated risk of 
harm to self. She would benefit from inpatient psychiatric 
admission now that she is medically stabilized. Her mother 
believes this is the most appropriate disposition. Patient 
understands that inpatient psychiatric admission is warranted 
given recent attempt.

CHRONIC/STABLE PROBLEMS:
# Depression/anxiety/?ADHD
The patient is being treated for longstanding depression and 
anxiety and follows with an outpatient psychiatrist, Dr. ___ 
___. She is currently being treated with escitalopram. She 
reportedly
takes guanfacine as needed for anxiety. She also reports being 
told that she has ADHD, but is unsure of details. Escitalopram 
was held during her admission because of potential QTc 
prolongation, and was held on discharge in anticipation of 
adjustment of psychiatric meds going forward.

TRANSTIONAL ISSUES
[] Follow up with outpatient psychiatrist Dr. ___
#Code Status: Full Code
#Contact: ___ (mother), ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Escitalopram Oxalate 25 mg PO DAILY 
2. DiphenhydrAMINE 25 mg PO DAILY 
3. guanFACINE 0.5 mg oral BID 
4. Vitamin D Dose is Unknown  PO DAILY 

 
Discharge Medications:
1. HELD- DiphenhydrAMINE 25 mg PO DAILY  This medication was 
held. Do not restart DiphenhydrAMINE until you are advised to do 
so by a psychiatrist
2. HELD- Escitalopram Oxalate 25 mg PO DAILY  This medication 
was held. Do not restart Escitalopram Oxalate until you are 
advised to do so by a psychiatrist
3. HELD- guanFACINE 0.5 mg oral BID  This medication was held. 
Do not restart guanFACINE until you are advised to do so by a 
psychiatrist
4. HELD- Vitamin D Dose is Unknown  PO DAILY  This medication 
was held. Do not restart Vitamin D until you are advised to do 
so by a psychiatrist

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Guanfacine Overdose
Hypotension
Bradycardia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Miss ___, 

It was a pleasure taking care of you at ___. 

WHY DID YOU COME TO THE HOSPITAL?
You had slow heart rate and low blood pressure from Guanfacine

WHAT HAPPENED WHILE YOU WERE HERE?
Your heart rate and blood pressure were monitored
You received medication to make your heart beat faster
WHAT SHOULD YOU DO WHEN YOU LEAVE THE HOSPITAL?
 Please continue to take all of your medications as directed, 
and follow up with all of your doctors. 

Again, it was a pleasure taking care of you!

Sincerely, 

Your ___ Team
 
Followup Instructions:
___